US06288120B1
2-Indanyl-ethyl bromide.
N,N-Carbonyl diimidazole (2.0 g, 12.3 mmol) was added to a solution of 2-indanylethanol (2.0 g, 12.3 mmol) in acetonitrile. The reaction mixture was stirred at room temperature for 1 h and allyl bromide (8.93 g, 73.8 mmol) was added. The reaction mixture was heated to 70° C. for 24 h and was poured onto water. The aqueous solution was extracted with Et2O and the organic solution was washed with water (1×) followed by brine (1×). The organic solution was dried over MgSO4, filtered, and concentrated to afford the title compound (2.54 g). 1H NMR (400 MHz, CDCl3) δ 7.10-7.25 (m, 4H), 3.48 (t, 2H), 3.11 (m, 2H), 2.63 (m, 3H), 2.07 (m, 2H).

reactant | 2-indanylethanol | 12.3 mmol, 2.0 g | C1(CCC2=CC=CC=C12)CCO | C11H14O
reactant | allyl bromide | 73.8 mmol, 8.93 g | C(C=C)Br | C3H5Br
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Indanyl-ethyl bromide | 2.54 g | C1(CCC2=CC=CC=C12)CCBr | C11H13Br
